US07919519B2
4-(5-Benzylbenzo[b]thiophen-2-yl)-3-fluorobenzaldehyde (step 2 in Scheme A-7)
A mixture of 4-bromo-3-fluorobenzaldehyde (40 mg, 0.198 mmol), 5-benzylbenzothiophene (44 mg, 0.198 mmol), potassium acetate (5 mg, 0.05 mmol), tetrakis(triphenylphosphine) palladium(0) (11 mg, 0.010 mmol) and N,N-dimethylacetamide (5 mL) was heated at 150° C. for 12 h. The solvent was evaporated in vacuo and the residue was triturated with water (50 mL) and extracted with dichloromethane (2×100 mL). The organic phase was dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography (ISCO system, 5% EtOAc in hexanes) to give the desired product. 1H NMR (400 MHz, CDCl3) δ 9.90 (s, 1H), 7.64-7.85 (m, 6H), 7.22-7.33 (m, 6H), 4.11 (s, 2H).

reactant | 4-bromo-3-fluorobenzaldehyde | 0.198 mmol, 40 mg | BrC1=C(C=C(C=O)C=C1)F | C7H4BrFO
reactant | 5-benzylbenzothiophene | 0.198 mmol, 44 mg | C(C1=CC=CC=C1)C=1C=CC2=C(C=CS2)C1 | C15H12S
reactant | potassium acetate | 0.05 mmol, 5 mg | C(C)(=O)[O-].[K+]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.010 mmol, 11 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 4-(5-Benzylbenzo[b]thiophen-2-yl)-3-fluorobenzaldehyde | C(C1=CC=CC=C1)C1=CC2=C(SC(=C2)C2=C(C=C(C=O)C=C2)F)C=C1 | C22H15FOS
